US08202885B2
86 mg of rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester were dissolved in 2 mL EtOAc, the solution was cooled with an ice bath and 1 mL of 3M HCl in EtOAC was added. The reaction mixture was evaporated to dryness without heating to give the desired rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester dihydrochloride.

reactant | rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | 86 mg | N1C(=NC2=C1C=CC=C2)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)C)=O)C | C31H39N3O2
reactant | HCl | 3M, 1 mL | Cl | ClH
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester dihydrochloride | Cl.Cl.N1C(=NC2=C1C=CC=C2)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)C)=O)C | InChI=1S/C31H39N3O2.2ClH/c1-22(2)30(35)36-31(21-24-15-16-25(31)20-26(24)23-10-5-4-6-11-23)17-19-34(3)18-9-14-29-32-27-12-7-8-13-28(27)33-29;;/h4-8,10-13,20,22,24-25H,9,14-19,21H2,1-3H3,(H,32,33);2*1H/t24-,25-,31+;;/m1../s1
